US04024274
16.5 g of piperonal, 12,7a g of cyclooctylamine and a catalytical amount of p-toluene-sulfonic acid were hydrogenated for 6 hours in 500 ml of methanol over Raney nickel at 100° C/100 atmospheres gauge pressure. After removal of the catalyst, evaporation of the solution and treatment of the residue with methanolic HCl, there were obtained 23 g of N-cyclooctyl-3,4-methylenedioxy-benzylamine. Melting point 164°-165° C (from ethanol/ether).

reactant | piperonal | 16.5 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | cyclooctylamine | C1(CCCCCCC1)N | C8H17N
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | N-cyclooctyl-3,4-methylenedioxy-benzylamine | 23 g | C1(CCCCCCC1)NCC1=CC2=C(C=C1)OCO2 | C16H23NO2
